US06281227B1
B. Thieno[3,2-b]pyridine-2-sulfonic acid [1-(1-amino-isoquinolin-7-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
Thieno[3,2-b]pyridine-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide (1.36 g, 2.88 mmol) and phenol (2.22 g, 23.6 mmol) are melted together with stirring at 70° C. for 5 minutes. Ammonium acetate (2.71 g, 28.8 mmol) is added and the reaction mixture is heated to 90° C. and stirred overnight. Additional ammonium acetate (0.50 g, 5.31 mmol) is added and the reaction is heated for 20 more hours. The reaction is cooled and the residue is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1% TFA) to 100% CH3CN. The appropriate product fractions are lyophilized to provide the title compound as a white solid. The enantiomeric purity is 90.5% ee as determined by analytical AS RP-HPLC.

reactant | Thieno[3,2-b]pyridine-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 2.88 mmol, 1.36 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=NC=CC=C2S1)=O | C21H17ClN4O3S2
reactant | phenol | 23.6 mmol, 2.22 g | C1(=CC=CC=C1)O | C6H6O
reactant | Ammonium acetate | 28.8 mmol, 2.71 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium acetate | 5.31 mmol, 0.50 g | C(C)(=O)[O-].[NH4+]
product | Thieno[3,2-b]pyridine-2-sulfonic acid [1-(1-amino-isoquinolin-7-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | NC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=NC=CC=C2S1)=O | C21H19N5O3S2
